US05840917
3-Bromo-2-thiophenecarboxylic acid methyl ester (7.74 g) was dissolved in a mixture of methanol (35 ml) and tetrahydrofuran (35 ml), and 1N aqueous sodium hydroxide (53 ml) was added. The mixture was stirred at room temperature for 2 hours and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 3-bromo-2-thiophenecarboxylic acid (7.05 g) as crystals.

reactant | 3-Bromo-2-thiophenecarboxylic acid methyl ester | 7.74 g | COC(=O)C=1SC=CC1Br | C6H5BrO2S
solvent | methanol | 35 ml | CO | CH4O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 53 ml | [OH-].[Na+]
product | 3-bromo-2-thiophenecarboxylic acid | 7.05 g | BrC1=C(SC=C1)C(=O)O | C5H3BrO2S
